US08048877B2
1,3-Bis-(3-trifluoromethoxybenzyl)imidazolidin-2-ylideneamine (Compound 14)
The title compound was prepared in three steps as described in Procedure D. In the first step, ethylenediamine was reacted in acetonitrile with 3-(trifluoromethoxy)benzoylchloride (2 eq) in the presence of TEA to give the N,N′-dibenzoylated ethylenediamine upon aqueous work-up. After the last step (reaction with cyanogen bromide), the crude product was isolated upon aqueous work-up, recrystallized from diethyl ether and the title compound isolated as the hydrogen bromide salt. MS (ES+) m/z 434 ([M+1]+, 100); HR-MS: 434.1299 ([M+1]+, C19H18F6N3O2; calc. 434.13032).

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 3-(trifluoromethoxy)benzoylchloride | 2 eq | FC(OC=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O2
reactant | acetonitrile | C(C)#N | C2H3N
product | 1,3-Bis-(3-trifluoromethoxybenzyl)imidazolidin-2-ylideneamine | FC(OC=1C=C(CN2C(N(CC2)CC2=CC(=CC=C2)OC(F)(F)F)=N)C=CC1)(F)F | C19H17F6N3O2
